US07884110B2
POBr3 (222.8 g, 0.78 mol) was added in portions to 2-hydroxy-5-methyl-3-nitropyridine (100 g, 0.65 mol) in DMF (500 mL) with stirring at 0-10° C. then the reaction mixture was stirred at 80° C. under nitrogen for 12 hours. Reaction mixture was cooled and poured into crushed ice (1 Kg), obtained solid was filtered, washed thoroughly with ice-cold water (2×500 mL), dried in a desiccator under high vacuum for one day to obtain 2-bromo-5-methyl-3-nitropyridine as yellow solid (121 g) in 86% yield. (M+H) Expected: 217; found 216.9.

reactant | POBr3 | 0.78 mol, 222.8 g | P(=O)(Br)(Br)Br | Br3OP
reactant | 2-hydroxy-5-methyl-3-nitropyridine | 0.65 mol, 100 g | OC1=NC=C(C=C1[N+](=O)[O-])C | C6H6N2O3
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 2-bromo-5-methyl-3-nitropyridine | 121 g, 86% yield | BrC1=NC=C(C=C1[N+](=O)[O-])C | C6H5BrN2O2
